US07875605B2
1-[[1-(4-Isopropylbenzenesulfonyl)-indol-3-yl]methyl][1,4]diazepane
Using essentially the same procedure as described in example 127, 1-(4-isopropylbenzenesulfonyl)-3-chloromethyl-1H-indole was reacted with homopiperazine to obtain the above derivative.

reactant | 1-(4-isopropylbenzenesulfonyl)-3-chloromethyl-1H-indole | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)CCl | C18H18ClNO2S
reactant | homopiperazine | N1CCNCCC1 | C5H12N2
product | 1-[[1-(4-Isopropylbenzenesulfonyl)-indol-3-yl]methyl][1,4]diazepane | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)CN1CCNCCC1 | C23H29N3O2S
